US06777406B2
(±)-cis-N-(2,5-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine
Using 2,5-dichloro-1-bromobenzene and following the procedures described in EXAMPLE 17, Parts B and C, (±)-cis-tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate, from EXAMPLE 17, Part A, was converted to the title compound of EXAMPLE 19. 1H NMR (CDCl3): δ 7.18 (d, 1H, J=8.4 Hz), 6.86 (d, 1H, J=2.2 Hz), 6.74 (s, 1H), 6.70 (s, 1H), 6.62 (dd, 1H, J=8.4, 2.6 Hz), 5.87 (s, 1H), 3.48-3.30 (m, 2H), 3.21 (q, 1H, J=7.6 Hz), 3.13-3.05 (m, 2H), 2.99 (dd, 1H, J=11.0, 4.7 Hz), 2.92-2.83 (m, 1H), 2.81-2.70 (m, 4H), 2.69-2.58 (m, 1H), 2.08-1.98 (m, 2H). LRMS (ES)+: 374.3 (M+H)+.

reactant | 2,5-dichloro-1-bromobenzene | ClC1=C(C=C(C=C1)Cl)Br | C6H3BrCl2
reactant | (±)-cis-tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CCC4)CN(C3)C(=O)OC(C)(C)C | C19H27N3O2
product | (±)-cis-N-(2,5-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine | ClC1=C(C=C(C=C1)Cl)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CCC4)CNC3 | C20H21Cl2N3
